US06995179B2
1) Synthesis of (2-trimethylsilylethyl) 3-oxovalerate:
1.26 ml (10.0 mmol) of methyl 3-oxovalerate, 2.87 ml (20.0 mmol) of 2-trimethylsilylethanol and 122 mg (1.0 mmol) of 4-dimethylaminopyridine were heated under reflux in 20 ml of toluene overnight. A phosphate buffer solution was added to the obtained reaction liquid. After the extraction with ethyl acetate, the organic layer was washed with saturated aqueous salt solution and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1) to obtain the title compound.

reactant | methyl 3-oxovalerate | 10.0 mmol, 1.26 ml | O=C(CC(=O)OC)CC | C6H10O3
reactant | 2-trimethylsilylethanol | 20.0 mmol, 2.87 ml | C[Si](CCO)(C)C | C5H14OSi
reactant | phosphate | P(=O)([O-])([O-])[O-]
catalyst | 4-dimethylaminopyridine | 1.0 mmol, 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (2-trimethylsilylethyl) 3-oxovalerate | O=C(CC(=O)OCC[Si](C)(C)C)CC | C10H20O3Si
